US07547691B2
(B). Preparation of 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid methyl ester
Using the method of Preparation E in 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methyl ester and isolated as a white solid.

reactant | 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)Cl)C1 | C14H8Cl2N2O2S
reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
product | 2-{5-chloro-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)C1 | C22H26ClN5O2S
